US05998436
Synthesis of 2-amino-4-bromo-5-chloro-3,6-difluoropyridine
To 20 ml of acetonitrile were added 4.9 g of 4-bromo-3-chloro-2,5,6-trifluoropyridine and 4 ml of 25% aqueous solution of ammonia, and the mixture was stirred at 55° C. for 2 hours. The solvent and the like were distilled off under reduced pressure. 50 ml of chloroform was added to the residue, and the solution was washed with 50 ml of distilled water. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dispersed in the mixed solution of diisopropylether and n-hexane and collected by filtration to obtain 3.8 g of the title compound as pale yellow needle crystals.

reactant | 4-bromo-3-chloro-2,5,6-trifluoropyridine | 4.9 g | BrC1=C(C(=NC(=C1F)F)F)Cl | C5BrClF3N
reactant | ammonia | N | H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-amino-4-bromo-5-chloro-3,6-difluoropyridine | 3.8 g | NC1=NC(=C(C(=C1F)Br)Cl)F | C5H2BrClF2N2
